datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>C1=CC=C([CH:10]([CH:11]=[N+:12]2CCCCC2)[CH:20]2[CH:21]=[C:22](C3=CC=CC=C3)[O:23][C:32]3=[C:31]2C=CC=C3)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2([I+:61]C3=CC=CC=C3)[C:11](=[O:12])CC(C)(C)C[C:91]2=[O:92])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.[O-][C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>CC1=CC=C([S:32]([N-:21][CH:20]([NH+:10]2CCC[CH:61]2[C:62]([O-])=[O:63])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CC[O:92][C:71]([CH:10]([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1)=[O:72] 10,11=10,20;12=11,12"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](C)[C:73]1=[O:74]>>C[C:22](=[CH:21][CH:20]([CH:10]1[C:11](=[O:12])[N:82](C)[C:73](=[O:74])[N:82](C)[C:61]1=[O:62])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[O:21]C)[CH:35]=[CH:36]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"C1=CC=C([C-:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10](C2=CC=CC=C2)([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].C[C:61]([O-:10])=[O:62]>>COC12C3C[CH:20]([O:10][C:61](C)=[O:62])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10=20;20,21=21"
CC[O:92][C:61]([C-:10](F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>CC[O:92][C:61]([C:10](F)([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1>>COC1=CC=[N+](C[C:21]([CH:20]([CH:10]2CCC[O:63][C:11]2=[O+:12][Si:73](C)(C)C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P:11]1[H:10]>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[H:10].CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P+:11]1 10,11=10,20"
"C[C:22]([CH:21]=[CH2:20])=[O:23].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[C:22](=[CH:21][CH2:20][S:10][C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>C[C:10]([C:11]#[N:12])([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
